US07576115B2
Synthesis of methyl 5-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate
2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (80 mg, 0.29 mmol) and methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate (58 mg, 0.29 mmol) were stirred in dimethylformamide (2.9 mL) at 120° C. under heating overnight. The resulting reaction solution was concentrated, and chloroform/n-hexane was added. The precipitated solid was recovered by filtration to give the desired product as a yellow solid (79 mg, yield 60%).

reactant | 2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.29 mmol, 80 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate | 0.29 mmol, 58 mg | N(N)C(=O)C1=CC=C(S1)C(=O)OC | C7H8N2O3S
solvent | dimethylformamide | 2.9 mL | CN(C=O)C | C3H7NO
product | methyl 5-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate | 79 mg, yield 60% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)OC)O | C23H24N2O4S2
